US05324725
A solution of 2.96 g of sodium cyanide in 60 ml of water was added to a solution of 14 g of 1-(2-bromoethyl)-5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline in 100 ml of toluene, and the reaction mixture was heated under reflux for 4 hours. To work up the reaction mixture it was concentrated to dryness, and the residue was washed with water and extracted with dichloromethane. The dichloromethane phase was separated, dried and evaporated. 10.5 g of crude 1-(3-cyanopropyl)-5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]-quinoline were obtained as a brownish oil.

reactant | sodium cyanide | 2.96 g | [C-]#N.[Na+]
reactant | 1-(2-bromoethyl)-5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]quinoline | 14 g | BrCCC1=C(N2CCCC3=CC=CC1=C23)C | C14H16BrN
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 ml | O | H2O
product | 1-(3-cyanopropyl)-5,6-dihydro-2-methyl-4H-pyrrolo[3,2,1-ij]-quinoline | 10.5 g | C(#N)CCCC1=C(N2CCCC3=CC=CC1=C23)C | C16H18N2
